datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)c1cc(C)c(C)cc1[O-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(=O)c1cc(C)c(C)cc1[O:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)[N-:10]CC(=O)[O-])cccc12.Cc1cc([O:21][H:20])ccc1C(C)C>>CN(C)c1cccc2c(S(=O)(=O)[N:10](CC(=O)[O-])[H:20])cccc12.Cc1cc([O-:21])ccc1C(C)C 10=20;20,21=21",
"C=C(C)C(=O)NC(C)(C)CC[N:10](C)C.O=C(c1ccccc1)c1cc[n:21]([H:20])n1>>C=C(C)C(=O)NC(C)(C)CC[N+:10](C)(C)[H:20].O=C(c1ccccc1)c1cc[n-:21]n1 10=20;20,21=21",
"O=P([O-])([O-])C([NH2+]Cc1ccccn1)c1ccccc1[O-:10].[O-]c1ccc2ccccc2[n+]1[O:21][H:20]>>O=P([O-])([O-])C([NH2+]Cc1ccccn1)c1ccccc1[O:10][H:20].[O-]c1ccc2ccccc2[n+]1[O-:21] 10=20;20,21=21",
"C[As](C)(C)=[O:10].C[n+]1cc([O:21][H:20])c2ccccc2c1>>C[As](C)(C)=[O+:10][H:20].C[n+]1cc([O-:21])c2ccccc2c1 10=20;20,21=21",
"CC1c2cc(O)ccc2CC1CC(=O)[O-:10].CCCCCN[NH2+:21][H:20]>>CC1c2cc(O)ccc2CC1CC(=O)[O:10][H:20].CCCCCN[NH2:21] 10=20;20,21=21",
"CC1=[N:10]CCS1.Cc1cc(-c2cccc[nH+]2)[n+:21]([H:20])n1C>>CC1=[N+:10]([H:20])CCS1.Cc1cc(-c2cccc[nH+]2)[n:21]n1C 10=20;20,21=21",
"CC[NH+](CC)Cc1cc(Cl)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+](CC)Cc1cc(Cl)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1nccc2c1[nH+]cn2CCOCP(=O)([O-])[O:21][H:20].c1ccc(C(c2ccccc2)=[NH:10])cc1>>Nc1nccc2c1[nH+]cn2CCOCP(=O)([O-])[O-:21].c1ccc(C(c2ccccc2)=[NH+:10][H:20])cc1 10=20;20,21=21",
"COc1cccc(/C=C/C(=O)[O-:10])c1.Cc1ccc(C(O)C(C(=O)[O:21][H:20])c2ccc(C3CCCCC3)cc2)cc1>>COc1cccc(/C=C/C(=O)[O:10][H:20])c1.Cc1ccc(C(O)C(C(=O)[O-:21])c2ccc(C3CCCCC3)cc2)cc1 10=20;20,21=21",
"C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O:21][H:20])CC1.Nc1nc[n:10]c2nn([C@@H]3C[C@@H](O)[C@H](CO)O3)nc12>>C[NH+]1CCC(n2nc(-c3ccccc3)c(Cc3ccccc3)c2[O-:21])CC1.Nc1nc[n+:10]([H:20])c2nn([C@@H]3C[C@@H](O)[C@H](CO)O3)nc12 10=20;20,21=21",
"C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20].[OH-:10]>>C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1.[OH:10][H:20] 10=20;20,21=21",
"CCNCC[NH:10]CC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCNCC[NH+:10](CC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:21]1[H:20])C(=O)[O-].CCCCC(CC)C(=O)O[C@H]1O[C@@H](C(=O)[O-:10])[C@H](O)[C@@H](O)[C@@H]1O>>CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:21]1)C(=O)[O-].CCCCC(CC)C(=O)O[C@H]1O[C@@H](C(=O)[O:10][H:20])[C@H](O)[C@@H](O)[C@@H]1O 10=20;20,21=21",
"Cc1cc([O-:10])n(C2CC[NH+](C)CC2)n1.Oc1ccc([O:21][H:20])cc1>>Cc1cc([O:10][H:20])n(C2CC[NH+](C)CC2)n1.Oc1ccc([O-:21])cc1 10=20;20,21=21",
"O=C(CC[C@H]1CC[C@H](O)CC1)[O:21][H:20].c1ccc(-c2cnc(-c3ccc([NH2:10])cc3)o2)cc1>>O=C(CC[C@H]1CC[C@H](O)CC1)[O-:21].c1ccc(-c2cnc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1 10=20;20,21=21",
"CC(=O)OCC1C[N+:21]2([H:20])CCC1CC2.CC(C)(CN)[NH2:10]>>CC(=O)OCC1C[N:21]2CCC1CC2.CC(C)(CN)[NH2+:10][H:20] 10=20;20,21=21",
"C[C@H]([NH3+])[C@H](C)[NH2+:21][H:20].Nc1oc2c([n:10]1)CCCC2>>C[C@H]([NH3+])[C@H](C)[NH2:21].Nc1oc2c([n+:10]1[H:20])CCCC2 10=20;20,21=21",
"CC(C(O)c1ccccc1)[NH:10]C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C(O)c1ccccc1)[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1ccc([O-:10])c(C(C)C)c1.Oc1onc2c1CC[N+:21](Cc1ccccc1)([H:20])CC2>>Cc1ccc([O:10][H:20])c(C(C)C)c1.Oc1onc2c1CC[N:21](Cc1ccccc1)CC2 10=20;20,21=21",
"CC(C)(C[NH3+])[Se-:10].CCCCCCCCCCCCCC[N+:21](CCO)(CC(O)CC)[H:20]>>CC(C)(C[NH3+])[Se:10][H:20].CCCCCCCCCCCCCC[N:21](CCO)CC(O)CC 10=20;20,21=21",
"CCn1nnnc1CC(=O)[O:21][H:20].Cc1cccc(C)c1OCC(=O)[O-:10]>>CCn1nnnc1CC(=O)[O-:21].Cc1cccc(C)c1OCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CC(=O)Nc1ccc([N+](=O)[O-])cc1.Cc1cccc(C(=O)[O:21][H:20])c1[N+](=O)[O-]>>CC[N+:10](CC)(CC(=O)Nc1ccc([N+](=O)[O-])cc1)[H:20].Cc1cccc(C(=O)[O-:21])c1[N+](=O)[O-] 10=20;20,21=21",
"OCCNCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCCNCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)c1ccc(SCC(=O)[O:21][H:20])cc1.CCCCCCCCCCCCCC[N:10](CCO)CC(O)CC>>CC(C)(C)c1ccc(SCC(=O)[O-:21])cc1.CCCCCCCCCCCCCC[N+:10](CCO)(CC(O)CC)[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])C(CO)[NH:10]Cc1ccccc1O>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])C(CO)[NH+:10](Cc1ccccc1O)[H:20] 10=20;20,21=21",
"Cc1cc([NH2+:21][H:20])ccc1C[NH3+].O=C(Nc1cc[n:10]cc1)c1ccccc1>>Cc1cc([NH2:21])ccc1C[NH3+].O=C(Nc1cc[n+:10]([H:20])cc1)c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCCSCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCCSCC[NH2+:10][H:20] 10=20;20,21=21",
"Clc1cccc2ccc([O-:10])cc12.O=C(c1cccc(S)c1)[O:21][H:20]>>Clc1cccc2ccc([O:10][H:20])cc12.O=C(c1cccc(S)c1)[O-:21] 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.CC(=O)C1=CC=CC(=O)C([O:21][H:20])=C1>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.CC(=O)C1=CC=CC(=O)C([O-:21])=C1 10=20;20,21=21",
"Cc1ccc([Se]CC(=O)[O-:10])cc1.Nc1[nH+]c(-c2cc[n+:21]([H:20])c(N)n2)cs1>>Cc1ccc([Se]CC(=O)[O:10][H:20])cc1.Nc1[nH+]c(-c2cc[n:21]c(N)n2)cs1 10=20;20,21=21",
